US06906072B1
Reference Example 30 3-cyano-5-thiophenecarboaldehyde
4-Bromo-2-thiophenecarboaldehyde dimethylacetal (6.82 g) was dissolved in DMF (50 ml), and copper cyanide (4.29 g) was added thereto. After heating under reflux for 3 hours, the mixture was cooled as it was to room temperature and ethyl acetate was added thereto. The mixture was washed with an aqueous ammonia, water, 0.1N aqueous hydrochloric acid and brine, dried over anhydrous magnesium sulfate and then evaporated, to give an oil. The residue was dissolved in an 80% aqueous acetic acid (100 ml), and the mixture was stirred at 0° C. for one hour. The mixture was washed with brine. After cooling as it was to room temperature, ethyl acetate was added thereto. The mixture was washed with an aqueous saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and then evaporated. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate system), and then recrystallized from ethyl acetate-hexane, to give the title compound as pale yellowish white crystals (2.44 g, 62%).

reactant | 4-Bromo-2-thiophenecarboaldehyde dimethylacetal | 6.82 g | COC(C=1SC=C(C1)Br)OC | C7H9BrO2S
reactant | copper cyanide | 4.29 g | [Cu](C#N)C#N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-cyano-5-thiophenecarboaldehyde | 2.44 g, 62% | C(#N)C1=CSC(=C1)C=O | C6H3NOS
